US08022223B2
N-(3-Phenoxy-5-(pyridin-4-ylthio)pyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine
Prepared according to the method of Example 292 from 2-chloro-3-isothiocyanatopyridine (0.116 g, 0.677 mmol) and 3-phenoxy-5-(pyridin-4-ylthio)pyridin-2-amine. 1H NMR (d6-DMSO) δ 7.10 (d, 2H), 7.17-7.23 (m, 3H), 7.40-7.47 (m, 4H), 7.97 (bs, 1H), 8.36-8.41 (m, 4H), 11.88 (bs, 1H).

reactant | 2-chloro-3-isothiocyanatopyridine | 0.677 mmol, 0.116 g | ClC1=NC=CC=C1N=C=S | C6H3ClN2S
reactant | 3-phenoxy-5-(pyridin-4-ylthio)pyridin-2-amine | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=CC=NC=C1)N | C16H13N3OS
product | N-(3-Phenoxy-5-(pyridin-4-ylthio)pyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=CC=NC=C1)NC=1SC2=NC=CC=C2N1 | C22H15N5OS2
